US06730695B2
a) Tert-Butyl 4-chloro-3-methylphenyl-carbamate
A mixture of 10 g of 4-chloro-3-methylaniline and 15.26 g of di-tert-butyl dicarbonate in 50 ml of dioxane is stirred for 24 hours at RT. The reaction mixture is concentrated under vacuum and the residue is chromatographed on silica gel, eluting with a gradient of DCM/hexane mixture of from (50/50; v/v) to (70/30; v/v). 5.6 g of the expected product are obtained and are used without further purification.

reactant | 4-chloro-3-methylaniline | 10 g | ClC1=C(C=C(N)C=C1)C | C7H8ClN
reactant | di-tert-butyl dicarbonate | 15.26 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | Tert-Butyl 4-chloro-3-methylphenyl-carbamate | 5.6 g | ClC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)C | C12H16ClNO2
